US09107946B2
Preparation of 1-[[3-chloro-4-(2,2-dibromo ethenyl)phenyl]methyl]-pyrrolidine
A mixture of 2-chloro-4-(1-pyrrolidinylmethyl)-benzaldehyde (prepared according to the teachings in WO2008/148868) (10.0 g, 44.70 mmol) and tetrabromomethane (22.2 g, 67.05 mmol) in DCM (300 ml) was stirred at 0° C. A solution of triphenylphosphine (35.2 g, 134.10 mmol) in DCM (500 ml) was added. The mixture was stiffed for 30 min at 0° C. The mixture was concentrated in vacuo. The residue was taken up into CHCl3, and the precipitate was filtered off. The filtrate was concentrated in vacuo. The residue (crude 1-[[3-chloro-4-(2,2-dibromoethenyl)phenyl]methyl]-pyrrolidine) was used as such in the next reaction step.

reactant | 2-chloro-4-(1-pyrrolidinylmethyl)-benzaldehyde | ClC1=C(C=O)C=CC(=C1)CN1CCCC1 | C12H14ClNO
reactant | tetrabromomethane | 67.05 mmol, 22.2 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 134.10 mmol, 35.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCM | 300 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 500 ml | C(Cl)Cl | CH2Cl2
product | 1-[[3-chloro-4-(2,2-dibromo ethenyl)phenyl]methyl]-pyrrolidine | ClC=1C=C(C=CC1C=C(Br)Br)CN1CCCC1 | C13H14Br2ClN
